US06274725B1
Synthesis of imidazolium tetrafluoroborate
To a solution of imidazole (20 mmol) in dichloromethane (30 mL) at 0° C. HBF4 (20 mmol, 3.8 g of a diethyl etherate) in dichloromethane is added dropwise. The reaction mixture is diluted with diethyl ether (100 mL) to precipitate the title compound. It is then filtered, washed with ether and recrystallized from ether.

reactant | imidazole | 20 mmol | N1C=NC=C1 | C3H4N2
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | imidazolium tetrafluoroborate | F[B-](F)(F)F.[NH+]1=CNC=C1 | InChI=1S/C3H4N2.BF4/c1-2-5-3-4-1;2-1(3,4)5/h1-3H,(H,4,5);/q;-1/p+1
